US09085555B2
D. (S)-1-(3-Chloro-2-fluoro-phenyl)-N*2*,N*2*-dimethyl-ethane-1,2-diamine
To a solution of [(S)-1-(3-chloro-2-fluoro-phenyl)-2-dimethylamino-ethyl]-carbamic acid tert-butyl ester (315 mg, 0.99 mmol) in dioxane (6 mL) was added HCl 4N in dioxane (9.94 mL, 39.8 mmol). The reaction mixture was stirred at RT for 1 h and concentrated to give the desired material as a HCL salt which was used without further purification in the next step. MS (UPLC/MS): 217.2/219.2 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.17 (bs, 2H), 7.75 (m, 2H), 7.40 (t, 1H), 5.16 (m, 1H), 3.85 (m, 1H), 3.60 (m, 1H), 2.87 (s, 3H).

reactant | [(S)-1-(3-chloro-2-fluoro-phenyl)-2-dimethylamino-ethyl]-carbamic acid tert-butyl ester | 0.99 mmol, 315 mg | C(C)(C)(C)OC(N[C@H](CN(C)C)C1=C(C(=CC=C1)Cl)F)=O | C15H22ClFN2O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 39.8 mmol, 9.94 mL | O1CCOCC1 | C4H8O2
product | (S)-1-(3-Chloro-2-fluoro-phenyl)-N*2*,N*2*-dimethyl-ethane-1,2-diamine | ClC=1C(=C(C=CC1)[C@@H](CN(C)C)N)F | C10H14ClFN2
